US07713993B2
Synthesis of methyl (4-dimethylaminophenyl)acetate
Iodomethane (0.382 mL) and potassium carbonate (848 mg) were added to a solution of (4-dimethylaminophenyl)acetic acid (1 g) in DMF (10 mL), and the reaction solution was stirred at room temperature for 71 hours. Thereafter, ethyl acetate and water were added to the reaction solution, and the organic layer was separated. The resulting organic layer washed with brine, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure to obtain 468 mg of the title compound. The property values of the compound are as follows.

reactant | Iodomethane | 0.382 mL | IC | CH3I
reactant | potassium carbonate | 848 mg | C([O-])([O-])=O.[K+].[K+]
reactant | (4-dimethylaminophenyl)acetic acid | 1 g | CN(C1=CC=C(C=C1)CC(=O)O)C | C10H13NO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | methyl (4-dimethylaminophenyl)acetate | 468 mg | CN(C1=CC=C(C=C1)CC(=O)OC)C | C11H15NO2
